US06538007B1
To a suspension of 2(S)-benzyloxycarbonylamino-β-alanine (2.0 g) in a mixture of dioxane (14 ml), water (7 ml) and 1N aqueous NaOH (6.94 ml) was added di-tert-butyl dicarbonate (1.67 g) at 0° C. After 10 minutes, the temperature was allowed to reach to room temperature, and the mixture was stirred for 5 hours. The reaction mixture was evaporated in vacuo to remove dioxane, adjusted to pH 3.0 with aqueous 20% KHSO4, then extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4, and evaporated in vacuo. The resulting solid was washed with diethyl ether to give N-tert-butoxycarbonyl-2(S)-benzyloxycarbonylamino-β-alanine (2.28 g).

reactant | 2(S)-benzyloxycarbonylamino-β-alanine | 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CN)C(=O)O | C11H14N2O4
reactant | water | 7 ml | O | H2O
reactant | NaOH | 1N, 6.94 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.67 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 14 ml | O1CCOCC1 | C4H8O2
product | N-tert-butoxycarbonyl-2(S)-benzyloxycarbonylamino-β-alanine | 2.28 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C16H22N2O6
